US06284785B1
(RS)-3-[1-(Toluene-4-sulfonyl)-pyrrolidin-2-yl]-pyridine
The title compound, white solid, m.p. 112° C., and MS: m/e=302 (M+) was prepared in accordance with the general method of example 1e from 3-(pyrolidin-2-yl)-pyridine and toluene-4-sulfonyl chloride.

reactant | 3-(pyrolidin-2-yl)-pyridine | N1C(CCC1)C=1C=NC=CC1 | C9H12N2
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-3-[1-(Toluene-4-sulfonyl)-pyrrolidin-2-yl]-pyridine | C1(=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C=1C=NC=CC1)C | C16H18N2O2S
